US08017604B2
Step 2: 2-Phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid
A solution of NaOH in water (1N, 54 ml, 54 mmol) was added to a suspension of 2-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester (6.8 g, 27 mmol) in a mixture of ethanol (50 ml) and water (25 ml). The mixture was heated to reflux (2 h). The obtained clear solution was cooled, poured onto crushed ice (50 g); HCl (25%, 10 ml) was added. The mixture was then filtered, and the precipitate was washed (ethanol) and dried under vacuum. The obtained solid (6.36 g, 99%) was used in the next step without further purification. MS (m/e)=239.1 [M+H+].

reactant | NaOH | [OH-].[Na+]
reactant | 2-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 27 mmol, 6.8 g | COC(=O)C1=CC=2N(C=C1)C=C(N2)C2=CC=CC=C2 | C15H12N2O2
reactant | HCl | 10 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
solvent | water | 54 mmol, 1N, 54 ml | O | H2O
product | 2-Phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid | C1(=CC=CC=C1)C=1N=C2N(C=CC(=C2)C(=O)O)C1 | C14H10N2O2
